US06268391B1
A solution of 4-cyanoaniline (5.0 g, 42 mmol) in dry dichloromethane (100 mL) under N2 was cooled to about −78° C. To this stirred solution was added a solution of tert-butylhypochlorite (4.6 g, 42 mmol) in dry dichloromethane (10 mL) over 5 min. and the resulting solution stirred for 10 minutes. A solution of ethyl methylthioacetate (5.45 mL, 5.69 g, 42 mmol) in dry dichloromethane (10 mL) was than added dropwise and the mixture stirred for 1 hour. Triethylamine (5.9 mL, 4.28, 42 mmol) was added dropwise and the solution allowed to warm to room temperature over 1 hour. The reaction solution was washed with water (3×20 mL) and brine (1×20 mL), dried over anhydrous MgSO4 and the solvent evaporated under vacuum to leave an orange oil. This oil was dissolved in diethyl ether (100 mL) and 2N aqueous hydrochloric acid (5 mL) was added and the mixture stirred vigorously at room temperature for 18 hours. The resulting tan solid was collected by filtration and washed with diethyl ether and dried under vacuum to give 5-cyano-3-methylthiooxindole as a white solid, (6.4 g, 76%). 1H NMR (CDCl3) δ9.04 (br s, 1H) 7.64 (s, 1H), 7.57 (d, 1H, J=8.4 Hz), 6.99 (d, 1H, J=8.4 Hz), 4.28 (s, 1H), 2.04 (s, 3H). MS (−ve ES) 203 (100), (M−H).

reactant | 4-cyanoaniline | 42 mmol, 5.0 g | C(#N)C1=CC=C(N)C=C1 | C7H6N2
reactant | tert-butylhypochlorite | 42 mmol, 4.6 g | C(C)(C)(C)OCl | C4H9ClO
reactant | ethyl methylthioacetate | 42 mmol, 5.45 mL, 5.69 g | CCC(=S)OCC | C5H10OS
reactant | Triethylamine | 42 mmol, 5.9 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N, 5 mL | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 5-cyano-3-methylthiooxindole | C(#N)C=1C=C2C(C(NC2=CC1)=S)C | C10H8N2S
